US06909001B2
5-nitrosalicylaldehyde (132 mmol, 22.00 g), 2-amino-1-propene-1,1,3-tricarbonitrile (132 mmol, 17.39 g), acetic acid (31 mL), and ethanol (500 mL) were combined and heated to reflux overnight. The resulting slurry was concentrated in vacuo and then dissolved in trifluoroacetic acid (350 mL) at 0° C. Triethylsilane (1.40 mol, 162 g, 225 mL) was added. The mixture was heated overnight at 66° C. The mixture was cooled and concentrated in vacuo. Triturating with methanol gave 2,4-diamino-7-nitro-5H-chromeno[2,3-b]pyridine-3-carbonitrile as a yellow solid (22.48 g, 60% yield). 1H NMR (300 MHz, DMSO-d6): δ 8.13 (d, J=9.0 Hz, 1H), 8.00 (s, 1H), 7.25 (d, J=9.0 Hz, 1H), 6.70 (br s, 2H), 6.50 (bs, 2H), 3.82 (s, 2H); m/z 284 (M+H); Anal. Calcd for C13H9N5O3-0.5H2O: C, 53.43; H, 3.45; N, 23.96, found: C, 53.41; H, 3.17; N, 23.71.

reactant | 5-nitrosalicylaldehyde | 132 mmol, 22.00 g | [N+](=O)([O-])C1=CC=C(C(C=O)=C1)O | C7H5NO4
reactant | 2-amino-1-propene-1,1,3-tricarbonitrile | 132 mmol, 17.39 g | NC(=C(C#N)C#N)CC#N | C6H4N4
reactant | acetic acid | 31 mL | C(C)(=O)O | C2H4O2
reactant | Triethylsilane | 1.40 mol, 225 mL, 162 g | C(C)[SiH](CC)CC | C6H16Si
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2,4-diamino-7-nitro-5H-chromeno[2,3-b]pyridine-3-carbonitrile | 22.48 g, 60% yield | NC1=C(C(=C2C(=N1)OC1=CC=C(C=C1C2)[N+](=O)[O-])N)C#N | C13H9N5O3
